US05272164
4-cyanopyridine (10.0 g, 96.1 mmol) was dissolved in isopropanol (50 ml), and sodium hydride (0.23 g, 9.6 mmol) from which oily matters had been removed by washing with ether was added. The mixture was stirred at room temperature for 6 hours. After the reaction was completed, the reaction solution was neutralized by adding acetic acid (0.64 g, 10.7 mmol) and concentrated under reduced pressure. To the residual concentrate was added diethyl ether (50 ml). Insolubles were removed by filtration, and the filtrate was concentrated under reduced pressure. To this concentrate was added hexane (80 ml), and deposited unreacted 4-cyanopyridine was removed by filtration. The filtrate was concentrated under reduced pressure to give crude isopropyl 4-pyridinecarboximidate (11.0 g) as a pale yellow oil.

reactant | 4-cyanopyridine | 96.1 mmol, 10.0 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | sodium hydride | 9.6 mmol, 0.23 g | [H-].[Na+]
reactant | acetic acid | 10.7 mmol, 0.64 g | C(C)(=O)O | C2H4O2
reactant | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | isopropyl 4-pyridinecarboximidate | 11.0 g | N1=CC=C(C=C1)C(OC(C)C)=N | C9H12N2O
